US08309562B2
[2-(2-Amino-ethyl)-quinazolin-4-yl]-(4-methoxy-phenyl)-methyl-amine
A mixture of {4-[(4-methoxy-phenyl)-methyl-amino]-quinazolin-2-yl}-acetonitrile (250 mg, 0.82 mmol), 10% Pd/C (100 mg) and HCl (12 M, 1 mL, 12 mmol) in CH2Cl2/MeOH (1:1, 10 mL) was treated with H2 (50 psi) and shaken for three days. The Pd/C was filtered off and the filtrate concentrated and purified to give 21 mg of the title compound as a solid. 1H NMR (CDCl3) δ 7.64 (d, 1H), 7.55 (ddd, 1H), 7.13 (d, 2H), 6.95 (m, 2H), 6.93 (d, 2H), 3.85 (s, 3H), 3.62 (t, 2H), 3.56 (s, 3H), 3.4 (t, 2H); LC-MS (ESI+; 309 ([M+H]+)).

reactant | {4-[(4-methoxy-phenyl)-methyl-amino]-quinazolin-2-yl}-acetonitrile | 0.82 mmol, 250 mg | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)CC#N)C | C18H16N4O
reactant | HCl | 12 mmol, 12 M, 1 mL | Cl | ClH
solvent | CH2Cl2 MeOH | 10 mL | C(Cl)Cl.CO
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | [2-(2-Amino-ethyl)-quinazolin-4-yl]-(4-methoxy-phenyl)-methyl-amine | 21 mg | NCCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C18H20N4O
